US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(3-(trifluoromethyl)benzo[b]thiophen-5-yl)imidazolidin-2-one (13A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 5-bromo-3-(trifluoromethyl)benzo[b]thiophene (151 mg, 0.54 mmol), 1,4-dioxane (5 mL), copper iodide (9.3 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (6.9 mg, 0.049 mmol) and potassium phosphate (313 mg, 1.47 mmol) to afford the crude product. Purification by column chromatography on silica gel (0.5% methanol in CHCl3), followed by preparative HPLC afforded 15.4 mg of the product (8% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 5-bromo-3-(trifluoromethyl)benzo[b]thiophene | 0.54 mmol, 151 mg | BrC1=CC2=C(SC=C2C(F)(F)F)C=C1 | C9H4BrF3S
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 mmol, 6.9 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.47 mmol, 313 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(3-(trifluoromethyl)benzo[b]thiophen-5-yl)imidazolidin-2-one | 15.4 mg, 8% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC2=C(SC=C2C(F)(F)F)C=C1)=O | C20H16F3N3OS
